Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___
 
___ Complaint:
Chief Complaint: tachycardia, hypertension, nausea, tremors
Reason for MICU transfer: uremia and hyperkalemia needing urgent 
HD 

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ M with h/o ESRD on Mo/Th HD and HTN 
who presents with confusion, shakiness and hypertension in 
setting of missing HD two days ago, found to be uremic with 
hyperkalemia on labs and admitted to ICU for urgent HD. 

Pt normally receives dialysis twice weekly on ___ and 
___. This ___ he reports he missed dialysis because he 
"just forgot". After this, he was noted to become more confused 
at his assisted living facility. He does remember this but 
doesn't recall many details of past few days. He denies any 
other symptoms like fever, chills, cough, dysuria, 
nausea/vomiting, diarrhea, constipation. Today at his assisted 
living facility he was found to be confused and shaky/tremulous, 
hypertensive and complaining of nausea. He was sent to ED for 
evaluation. 

Of note, pt recently presented to ___ ED on ___ from his 
facility for similar symptoms of confusion, hypertension and 
shaking after awaking from a nap. Had received dialysis earlier 
in the day during which he complained of nausea and was 
tachycardic. Labs at that time showed K 4.6, BUN 49, Cr 7.7 
NCHCT showed extensive white matter hypodensities which may be 
due to chronic small vessel disease and lacunar infarcts, but 
also consider multi-infarct dementia in appropriate clinical 
setting. Plan was for further toxic-metabolic workup of his 
confusion, but pt refused further care. Psychiatry was consulted 
and noted impaired word-list recall but overall felt he had 
capacity to make decision to leave ED.  

In the ED, initial vitals: 99.8 110 178/85 18 93% 2L NC. On exam 
had bibasilar crackles, tremors, asterixis and was oriented x1 
only. Labs notable for K 7.4, HCO3 18, BUN 107, Cr 15.0, AG 29. 
WBC 13.9 (85.7% PMNs). EKG showed mildly peaked T waves, <1mm ST 
depressions in lateral leads. CXR showed cardiomegaly, no 
pulmonary edema. Pt received calcium gluconate, insulin + 
dextrose, albuterol and kayexelate. Potassium downtrended from 
7.4 to 6.1 in the ED. Was seen by nephrology who recommended 
urgent dialysis against low-K bath, likely to be repeated in 
late morning or afternoon. He was admitted to the ICU for urgent 
HD and lab monitoring. He became agitated, refused care and 
attempted to leave ED, security was called and pt deemed unable 
to leave given acutely altered mental status, no capacity to 
refuse care. Received Diazepam 10mg PO once. On transfer, vitals 
were:  98.9 77 168/74 20 100% RA.  

On arrival to the MICU, vitals are 88, 171/92, 99% RA. Patient 
had large liquid bowel movement on arrival. He is currently 
asymptomatic. 

Review of systems: positive per HPI, otherwise negative.  
 
Past Medical History:
- ESRD ___ HTN, on Mo/Th HD for ___ year, has L AF fistula
- HTN
- Hyperlipidemia
- H/O EtOH abuse (sober ___ year)
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 

Vitals- 88, 171/92, 99% RA 
General- pleasant older M in NAD, unable to provide detailed 
history but generally oriented and cooperative. 
HEENT- NC/AT, MMM 
Neck- supple, no JVD 
CV- RRR S1 S2 no R/M/G 
Lungs- bibasilar crackles.  
Abdomen- SNTND +BS no HSM/masses 
GU- No foley  
Ext- Bruit and palpable thrill over L AV fistula 
Neuro- Unable to provide detailed history but generally oriented 
and cooperative. Oriented to person, date, states he is in 
"dialysis" but does not know hospital. Inattentive on days of 
week backward, stops at ___. Cranial nerves grossly 
intact. +Asterixis.  

DISCHARGE PHYSICAL EXAM: 
 
Pertinent Results:
ADMISSION LABS: 
- WBC-13.9*# RBC-4.56* Hgb-12.3* Hct-39.6* MCV-87 MCH-27.1 
MCHC-31.1 RDW-16.1* Plt ___
- Neuts-85.7* Lymphs-7.9* Monos-5.1 Eos-0.8 Baso-0.5
- Glucose-122* UreaN-107* Creat-15.0*# Na-137 K-7.4* Cl-92* 
HCO3-18* AnGap-34*
- Calcium-8.3* Phos-7.9* Mg-4.1*
- ALT-7 AST-5 LD(LDH)-196 AlkPhos-55 TotBili-0.4
- Serum Tox: ASA-NEG Ethanol-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG

MICROBIOLOGY: 
- Hepatitis serologies (___): ***

EKG (___): Sinus rhythm with borderline first degree A-V 
conduction delay. Non-specific intraventricular conduction 
delay. Poor R wave progression. Peaked T waves in leads V2-V3 
could be due to hyperkalemia. Prolonged QTc interval. Compared 
to the previous tracing of ___ the precordial T waves are 
taller and more peaked and the QTc interval is slightly longer 
and the P-R interval is longer which all could be consistent 
with hyperkalemia. The lateral ST-T wave abnormalities in leads 
V4-V6 are less pronounced. 

AP CXR (___): 
1. Mild cardiomegaly with mild interstitial pulmonary edema. 
2. 15-mm nodular opacity superior to the right costophrenic 
angle, possibly a calcified pulmonary nodule. Further assessment 
with conventional radiographs should be performed once the 
patient's fluid status has normalized. 
3. Bulbous appearance of the right hilus should be reassessed on 
the same 
conventional radiographs as recommended in impression point #2. 

PA/LAT CXR (___): ***
 
Brief Hospital Course:
___ is a ___ M with h/o ESRD on Mo/Th HD and HTN 
who presents with confusion, shakiness and hypertension in 
setting of missing HD two days ago, found to be uremic with 
hyperkalemia on labs and admitted to ICU for urgent HD. 

# UREMIC ENCEPHALOPATHY: Presented with confusion, shakiness and 
hypertension in setting of missing HD two days PTA. Exam notable 
for confusion and asterixis which cleared with hemodialysis. His 
encephalopathy was likely due to uremia from missing dialysis. 
This is also likely acute on chronic picture, as prior head CT 
showed significant small vessel disease and lacunar strokes 
which suggest probable underlying vascular dementia. He has 
history of EtOH abuse but insists he has been sober for one 
year. His mental status improved back to baseline with 
hemodialysis. 

# UREMIA, HYPERKALEMIA: Pt has ESRD on bi-weekly dialysis. He 
skipped his ___ HD session and thus presented with uremia 
with anion gap acidosis and hyperkalemia to 7.6 with peaked T 
waves. His hyperkalemia improved with medications in the ED 
(calcium gluconate, insulin, albuterol and kayexelate) and 
subsequent HD. He received urgent HD session on arrival to ICU 
at 4am, and was dialyzed again in the afternoon. Had his routine 
HD session on HD #2 (___) during hospitalization as well. 
His home cinacalcet, calcium carbonate and nephrocaps were 
continued. 

# HYPERTENSION: Arrived hypertensive to SBP 180s. Received 
hydral 10mg x2 and labetalol 50mg x1, then his home nifedipine 
was restarted. With these medications and receipt of HD, his SBP 
improved to 120s. He also had mild pulmonary edema in setting of 
HTN and renal failure on admission. Improved with dialysis and 
home torsemide. 

# POOR MEDICAL COMPLIANCE: Pt has poor insight into his medical 
problems and per his home nurse practitioner, has missed 
multiple dialysis sessions over the past year. He currently 
resides at an assisted living facility but probably needs higher 
level of care (e.g. SNF). Social work and case management were 
involved and counseled patient about this, but he is competent 
to make his own decisions and he refused to go to ___. Will 
receive daily ___ visits at home. 
 
# ?NODULE ON CXR: Chest x-ray showed question of RLL nodular 
opacity. Repeat AP/lateral CXR showed interval resolution of 
this finding, probable engorged vessel.

====================
TRANSITIONS OF CARE:
# Communication: Patient, friend ___ (___)
# Code: Full (confirmed)  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Epoetin Alfa 10,000 units SC PER HD 
2. Cinacalcet 30 mg PO DAILY 
3. NIFEdipine CR 30 mg PO DAILY 
4. Metoprolol Succinate XL 150 mg PO DAILY 
5. Nephrocaps 1 CAP PO DAILY 
6. Famotidine 20 mg PO BID 
7. Calcium Acetate 667 mg PO TID W/MEALS 
8. Ondansetron 4 mg PO Q8H:PRN Nausea 
9. Calcium Carbonate 1000 mg PO QID:PRN Dyspepsia 
10. Bisacodyl ___AILY:PRN constipation 
11. Acetaminophen 325-650 mg PO Q6H:PRN Pain or Fever 
12. Torsemide 100 mg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN Pain or Fever 
2. Bisacodyl ___AILY:PRN constipation 
3. Calcium Acetate 1334 mg PO TID W/MEALS 
RX *calcium acetate 667 mg 2 capsule(s) by mouth TID With Meals 
Disp #*100 Tablet Refills:*0
4. Calcium Carbonate 1000 mg PO QID:PRN Dyspepsia 
5. Cinacalcet 30 mg PO DAILY 
6. Famotidine 20 mg PO DAILY 
7. Metoprolol Succinate XL 150 mg PO DAILY 
8. Nephrocaps 1 CAP PO DAILY 
9. NIFEdipine CR 30 mg PO DAILY 
10. Ondansetron 4 mg PO Q8H:PRN Nausea 
11. Torsemide 100 mg PO DAILY 
12. Epoetin Alfa 10,000 units SC PER HD 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Active:
- ESRD on Dialysis
 
Chronic: 
- HTN
- HLD

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr ___,
 
It was a pleasure treating you during this admission. You were 
admitted to ___ ICU for urgent 
dialysis. You received a dialysis session and your kidney 
numbers and confusion improved. We wanted you to stay overnight 
for another dialysis session but you declined and elected to be 
discharged home instead. 
 
Followup Instructions:
___